US07417065B2
To a solution of 3-chloro-5-methyl-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene(110 mg, 0.273 mmol) in CCl4 (3 ml) is added NBS (49 mg, 1 eq.). The mixture is heated at reflux for 15 minutes before AIBN (4.5 mg, 0.1 eq.) is added. The reaction is further heated at reflux overnight. The mixture is filtered through Celite and washed with CCl4. The filtrate is concentrated and purified by column chromatography (EtOAc/Hexane, gradient) to give 50 mg of 5-bromomethyl-3-chloro-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene in 38% yield.

reactant | 3-chloro-5-methyl-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene | 0.273 mmol, 110 mg | ClC=1C2=C(SC1C1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F)C=CC(=C2)C | C22H14ClF3S
reactant | NBS | 49 mg, 1 eq. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 4.5 mg, 0.1 eq. | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-3-chloro-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene | 50 mg, 38% yield | BrCC1=CC2=C(SC(=C2Cl)C2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C=C1 | C22H13BrClF3S
